US06649657B2
5-(3-tert-Butoxycarbonylamino-propyl)-tetrahydrofuran-2-carboxylic acid methyl ester and 5-(3-tert-Butoxycarbonylamino-proDyl)-furan-2-carboxylic acid methyl ester. To a solution of 5-(3-tert-butoxycarbonylamino-prop-1-ynyl)-furan-2-carboxylic acid methyl ester (1.69 g) in MeOH (50 mL) was added 10% palladium on carbon (850 mg) and the mixture was hydrogenated on a Parr shaker at 50 psi for 18 h. The catalyst was removed via filtration through Celite and the volatiles were concentrated in vacuo. Flash chromatography (hexanes:EtOAc 4:1) provided 5-(3-tert-butoxycarbonylamino- propyl)-furan-2-carboxylic acid methyl ester (422 mg, MS 284 M+) followed by 5-(3-tert-butoxycarbonylamino-propyl)-tetrahydrofuran-2-carboxylic acid methyl ester (903 mg).

reactant | 5-(3-tert-Butoxycarbonylamino-propyl)-tetrahydrofuran-2-carboxylic acid methyl ester | COC(=O)C1OC(CC1)CCCNC(=O)OC(C)(C)C | C14H25NO5
reactant | 5-(3-tert-butoxycarbonylamino-prop-1-ynyl)-furan-2-carboxylic acid methyl ester | 1.69 g | COC(=O)C=1OC(=CC1)C#CCNC(=O)OC(C)(C)C | C14H17NO5
solvent | MeOH | 50 mL | CO | CH4O
catalyst | palladium on carbon | 850 mg | [Pd] | Pd
product | 5-(3-tert-butoxycarbonylamino- propyl)-furan-2-carboxylic acid methyl ester | 284 M, 422 mg | COC(=O)C=1OC(=CC1)CCCNC(=O)OC(C)(C)C | C14H21NO5
